US03952031
3α-Hydroxy-2βpropionyloxy-5α-pregnane-11,20-dione
2α,3α-Epoxy-5α-pregnane-11,20-dione (500 mg) was dissolved in propionic acid (10 ml) and the solution heated on a steam bath for 5 hours. The mixture was poured into water (200 ml) and the white precipitate extracted into ether. The ethereal solution was washed with 2N-sodium hydroxide solution until the aqueous layer remained basic, then water and then dried over anhydrous sodium sulphate. The dried solution was evaporated to a white foam (560 mg) which was purified by preparative T.L.C. using ethyl acetate/petrol (2/1). The main band (Rf 0.4-0.5) gave title compound (393 mg.) as a white foam. [α]D + 84.4° (c 1.05).

reactant | 2α,3α-Epoxy-5α-pregnane-11,20-dione | 500 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]1(C2)C)=O)C | C21H30O3
reactant | water | 200 ml | O | H2O
solvent | propionic acid | 10 ml | C(CC)(=O)O | C3H6O2
product | 3α-Hydroxy-2βpropionyloxy-5α-pregnane-11,20-dione | 393 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1OC(CC)=O)C)=O)C | C24H36O5
